US07645756B2
47% hydrobromic acid was added to 141 mg of 6-(6-methoxypyridin-3-yl)-[1,2,4]triazolo[3,4-a]phthalazine, and refluxed for 4 hours. The reaction liquid was concentrated under reduced pressure, and ether was added to the resulting residue. The resulting solid was taken out through filtration to obtain 250 mg of 5-[1,2,4]triazolo[3,4-a]phthalazin-6-ylpyridin-2-ol hydrobromide as a brown solid.

reactant | hydrobromic acid | Br | BrH
reactant | 6-(6-methoxypyridin-3-yl)-[1,2,4]triazolo[3,4-a]phthalazine | 141 mg | COC1=CC=C(C=N1)C1=NN2C(C3=CC=CC=C13)=NN=C2 | C15H11N5O
product | 5-[1,2,4]triazolo[3,4-a]phthalazin-6-ylpyridin-2-ol hydrobromide | 250 mg | Br.N=1N=CN2C1C1=CC=CC=C1C(=N2)C=2C=CC(=NC2)O | InChI=1S/C14H9N5O.BrH/c20-12-6-5-9(7-15-12)13-10-3-1-2-4-11(10)14-17-16-8-19(14)18-13;/h1-8H,(H,15,20);1H
